US04138581
3,4-Dihydroxyphenyl 1-(tert-butylamino)ethyl ketone hydrochloride (8 g.) was reacted with 18 ml. of pivalyl chloride in 35 ml. of trifluoroacetic acid, the resulting ester-amine salt was converted to the ester-amine, and the ester-amine was treated with hydrochloric acid to yield 10.5 g. of 3,4-bis(pivalyloxy)phenyl 1-(tert-butylamino)ethyl ketone hydrochloride, m.p. 200°-202° C. (uncorr.). This ketone was catalytically hydrogenated in the presence of palladium-on-charcoal catalyst to yield 3,4-bis(pivalyloxy)-alpha-[1-(tert-butylamino)ethyl]benzyl alcohol hydrochloride as a white crystalline solid which melted at 205°-207° C. (uncorr.).

reactant | 3,4-Dihydroxyphenyl 1-(tert-butylamino)ethyl ketone hydrochloride | 8 g | Cl.C(C)(C)(C)NC(C)C(=O)C1=CC(=C(C=C1)O)O
reactant | pivalyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | Cl | ClH
reactant | 3,4-bis(pivalyloxy)phenyl 1-(tert-butylamino)ethyl ketone hydrochloride | Cl.C(C)(C)(C)NC(C)C(=O)C1=CC(=C(C=C1)OC(C(C)(C)C)=O)OC(C(C)(C)C)=O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3,4-bis(pivalyloxy)-alpha-[1-(tert-butylamino)ethyl]benzyl alcohol hydrochloride | Cl.C(C(C)(C)C)(=O)OC=1C=C(C(C(C)NC(C)(C)C)O)C=CC1OC(C(C)(C)C)=O | InChI=1S/C23H37NO5.ClH/c1-14(24-23(8,9)10)18(25)15-11-12-16(28-19(26)21(2,3)4)17(13-15)29-20(27)22(5,6)7;/h11-14,18,24-25H,1-10H3;1H
